US06515011B2
DBU (0.20 mL, 1.34 mmol) was added to a stirred solution of (5-chloro-2-{2,2-difluoro-1-[(4-methoxyphenyl)amino]ethyl}phenyl)methanol (0.439 g, 1.34 mmol) and DPPA (0.29 mL, 1.34 mmol) in THF (1.7 mL) at 0° C. and the mixture was warmed to ambient temperature. After 3 h the solution was partitioned between EtOAc (20 mL) and water (10 mL). The EtOAc layer was washed with 1M NaOH (10 mL) and brine (10 mL), dried (Na2SO4) and reduced in vacuo to give N-{1-[2-(azidomethyl)-4-chlorophenyl]-2,2-difluoroethyl}-N-(4-methoxyphenyl)amine (0.463 g) as an oil: MS 353.5 (M+1).

reactant | DBU | 1.34 mmol, 0.20 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | (5-chloro-2-{2,2-difluoro-1-[(4-methoxyphenyl)amino]ethyl}phenyl)methanol | 1.34 mmol, 0.439 g | ClC=1C=CC(=C(C1)CO)C(C(F)F)NC1=CC=C(C=C1)OC | C16H16ClF2NO2
reactant | DPPA | 1.34 mmol, 0.29 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 1.7 mL | C1CCOC1 | C4H8O
product | N-{1-[2-(azidomethyl)-4-chlorophenyl]-2,2-difluoroethyl}-N-(4-methoxyphenyl)amine | 0.463 g | N(=[N+]=[N-])CC1=C(C=CC(=C1)Cl)C(C(F)F)NC1=CC=C(C=C1)OC | C16H15ClF2N4O
